US06509505B1
Preparation of 2,6-bis(2,4-Dimethylphenyl)-4-Phenylphosphabenzene
20 g (44 mmol) of 2,6-bis(2,4-dimethylphenyl)-4-phenylpyrylium tetrafluoroborate in 150 ml of n-butanol were used as starting material. The autoclave product obtained after the reaction with PH3 was evaporated to half its volume under reduced pressure. The solid which precipitated was filtered off with suction, washed with n-butanol and subsequently dissolved in toluene. The toluene solution was then washed with water until the aqueous phase was neutral. After removal of the solvent and washing with a little n-pentane, the residue was dissolved in 250 ml of diethyl ether/methanol (3:2). The solution obtained was evaporated under reduced pressure at about 30° C. until a solid precipitated. The solid was filtered off with suction, washed with a little methanol and n-pentane and subsequently dried in a high vacuum. Yield: 8.9 g (53%) of white solid.

reactant | 2,6-bis(2,4-dimethylphenyl)-4-phenylpyrylium tetrafluoroborate | 44 mmol, 20 g | F[B-](F)(F)F.CC1=C(C=CC(=C1)C)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=C(C=C(C=C1)C)C
reactant | PH3 | P | H3P
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 2,6-bis(2,4-Dimethylphenyl)-4-Phenylphosphabenzene | CC1=C(C=CC(=C1)C)C1=PC(=CC(=C1)C1=CC=CC=C1)C1=C(C=C(C=C1)C)C | C27H25P
